US07390903B2
To a stirred solution of 1.00 g (4.92 mmol) of (2-amino-thiophen-3-yl)-phenyl-methanone (the preparation of which is described in example 20) in 20 ml CFCl2 at 0° C. was added 0.92 g (5.18 mmol) NBS (N-bromo succinimide) in one portion. After 10 minutes, 4.65 ml (49.2 mmol) of acetic anhydride, 0.68 ml (4.92 mmol) of Et3N and 0.30 g (2.45 mmol) of DMAP were added. Stirring was continued at RT for 2 hours, the mixture was poured onto water and extracted three times with CH2Cl2. The combined organic phases were dried over sodium sulfate and concentrated in vacuo. Flash chromatography (heptane/CH2Cl2 1:1) afforded 0.85 g (53%) N-(3-benzoyl-5-bromo-thiophen-2-yl)-acetamide as a light brown solid. ES-MS m/e (%): 324, 326 (M+H+, 100).

reactant | (2-amino-thiophen-3-yl)-phenyl-methanone | 4.92 mmol, 1.00 g | NC=1SC=CC1C(=O)C1=CC=CC=C1 | C11H9NOS
reactant | NBS | 5.18 mmol, 0.92 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | acetic anhydride | 49.2 mmol, 4.65 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | Et3N | 4.92 mmol, 0.68 ml | CCN(CC)CC | C6H15N
catalyst | DMAP | 2.45 mmol, 0.30 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | N-(3-benzoyl-5-bromo-thiophen-2-yl)-acetamide | 0.85 g, 53% | C(C1=CC=CC=C1)(=O)C1=C(SC(=C1)Br)NC(C)=O | C13H10BrNO2S
